US07816353B2
To a 25 mL recovery flask was added 2-(4,6-dichloro-[1,3,5]triazin-2-yloxy)-N-(3-trifluoromethyl-phenyl)-acetamide (293 mg, 0.798 mmol, 1.0 eq.) and a stirbar. THF (7 mL) was added and the resulting solution was cooled to −78° C. Ammonia (NH3, 2.0 M in EtOH, 2.00 mL, 6 mmol, 5 eq.) was added in 400 μl aliquots until the reaction was complete by LC/MS analysis. The reaction mixture was diluted with EtOAc (50 mL) and washed with H2O (1×50 mL) and brine (1×50 mL). The combined aqueous phases were extracted with EtOAc (2×25 mL). The combined organic phases were dried over anhydrous sodium sulfate, filtered, and concentrated to give an off-white solid. The solid washed with EtOAc to give 2-(4-Amino-6-chloro-[1,3,5]triazin-2-yloxy)-N-(3-trifluoromethyl-phenyl)-acetamide as a white solid (70 mg, 25%). LC/MSD (HP Series 1100 MSD) Expected MW: 357.04, Observed M−H, 358.1, Retention time: 1.37. 1H-NMR, DMSO-d6, Varian 400 MHz δ 10.54 (s, 1H), 8.10-8.07 (m, 2H), 8.02 (s, 1H), 7.78 (d, 1H), 7.57 (t, 1H), 7.43 (d, 1H), 4.96 (s, 2H) ppm.

reactant | 2-(4,6-dichloro-[1,3,5]triazin-2-yloxy)-N-(3-trifluoromethyl-phenyl)-acetamide | 0.798 mmol, 293 mg, 1.0 eq. | ClC1=NC(=NC(=N1)Cl)OCC(=O)NC1=CC(=CC=C1)C(F)(F)F | C12H7Cl2F3N4O2
reactant | THF | 7 mL | C1CCOC1 | C4H8O
reactant | Ammonia | 6 mmol, 2.0 M, 2.00 mL, 5 eq. | N | H3N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-(4-Amino-6-chloro-[1,3,5]triazin-2-yloxy)-N-(3-trifluoromethyl-phenyl)-acetamide | 70 mg, 25% | NC1=NC(=NC(=N1)Cl)OCC(=O)NC1=CC(=CC=C1)C(F)(F)F | C12H9ClF3N5O2
